US05756505
1-isobutyl-4-[3-isobutyl-4-(4-methoxybenzyloxy)benzoyl]piperazine
As in the case of Example 18, 1-(4-hydroxy-3-isobutylbenzoyl)-4-isobutylpiperazine (1.59 g) was benzylated with 4-methoxybenzyl bromide (0.94 g), thereby yielding 1.69 g of the aimed compound.

reactant | 1-(4-hydroxy-3-isobutylbenzoyl)-4-isobutylpiperazine | 1.59 g | OC1=C(C=C(C(=O)N2CCN(CC2)CC(C)C)C=C1)CC(C)C | C19H30N2O2
reactant | 4-methoxybenzyl bromide | 0.94 g | COC1=CC=C(CBr)C=C1 | C8H9BrO
product | 1-isobutyl-4-[3-isobutyl-4-(4-methoxybenzyloxy)benzoyl]piperazine | 1.69 g | C(C(C)C)N1CCN(CC1)C(C1=CC(=C(C=C1)OCC1=CC=C(C=C1)OC)CC(C)C)=O | C27H38N2O3
